US09428469B2
4-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)-N,N-dimethylbenzenesulfonamide (Compound 17)
To a solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (100 mg, 410 μmol) in MeOH (5 mL) was added 4-formyl-N,N-dimethyl-benzenesulfonamide (96.1 mg, 451 μmol) followed by acetic acid (36.7 mg, 35 μl, 611 μmol). The reaction was stirred at room temperature for 15 minutes, 2-picoline borane complex (65.7 mg, 615 μmol) was added and the stirring was continued for 5 days. The reaction mixture was poured into 0.1N HCl solution (25 ml) to give a suspension, and the suspension was filtered to give an off white solid as desired product (119 mg, 66% yield). MS +m/z: 441 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 4-formyl-N,N-dimethyl-benzenesulfonamide | 451 μmol, 96.1 mg | C(=O)C1=CC=C(C=C1)S(=O)(=O)N(C)C | C9H11NO3S
reactant | acetic acid | 611 μmol, 35 μl, 36.7 mg | C(C)(=O)O | C2H4O2
reactant | HCl | 0.1N, 25 ml | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 4-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)-N,N-dimethylbenzenesulfonamide | 119 mg, 66% yield | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC1=CC=C(C=C1)S(=O)(=O)N(C)C | C17H18Cl2N6O2S
